US06303347B1
In the same manner as described in Example 2-(5), D-serine benzyl ester (390 mg, 2.0 mmol) was acylated with (R)-3-decanoyloxytetradecanoic acid (875 mg, 2.2 mmol) in the presence of EDC·MeI (745 mg, 2.5 mmol) in CH2Cl2 to afford 1.05 g (91%) of N-[(R)-3-decanoyloxytetradecanoyl]-D-serine benzyl ester: mp 51-52° C.; 1H NMR (CDCl3) δ 0.88 (m, 6H), 1.1-1.7 (m, 34H), 2.30 (t, 2H, J=7.7 Hz), 2.50 (m, 2H),3.68 (s, 1H), 3.93 (d, 2H, J=3.1 Hz), 4.62 (m, 1H), 5.22 (m, 3H), 6.63 (d, 1H, J=6.9 Hz), 7.35 (br s, 5H).

reactant | D-serine benzyl ester | 2.0 mmol, 390 mg | C(C1=CC=CC=C1)OC([C@H](N)CO)=O | C10H13NO3
reactant | (R)-3-decanoyloxytetradecanoic acid | 2.2 mmol, 875 mg | C(CCCCCCCCC)(=O)O[C@@H](CC(=O)O)CCCCCCCCCCC | C24H46O4
reactant | EDC·MeI | 2.5 mmol, 745 mg | C(CCl)Cl.CI
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N-[(R)-3-decanoyloxytetradecanoyl]-D-serine benzyl ester | 1.05 g, 91% | C(C1=CC=CC=C1)OC([C@H](NC(C[C@@H](CCCCCCCCCCC)OC(CCCCCCCCC)=O)=O)CO)=O | C34H57NO6
